*AO3400


*              D G S
.SUBCKT AO3400 4 1 2
M1  3 1 2 2 NMOS W=998956u  L=1.0u
M2  2 1 2 4 PMOS W=998956u  L=0.4u
R1  4 3     RTEMP 15E-3
CGS 1 2     225E-12
DBD 2 3     DBD
**************************************************************************
.MODEL  NMOS       VDMOS  (LEVEL  = 3      TOX    = 2.5E-8 RS  = 2E-4     RD= 0   NSUB   = 1.6E17   kp = 3E-5  UO= 600   THETA = 0 VMAX = 0  XJ  = 4E-7  KAPPA  = 1.1 ETA = 0  TPG    = 1   IS     = 0   LD = 0   CGSO   = 0  CGDO   = 0  CGBO   = 0  NFS = 2E10   DELTA  = 0.1)
*************************************************************************
.MODEL  PMOS       PMOS (LEVEL   = 3 TOX    = 2.5E-8 NSUB    = 2.0E16    TPG    = -1)
*************************************************************************
.MODEL DBD D (CJO=690E-12     VJ=0.6    M=0.3 RS=0.005 FC=0.5 IS=1E-11 TT=1.5E-8 N=1.0 BV=36 IBV=1E-4)
*************************************************************************
.MODEL RTEMP RES (TC1=6.5E-3   TC2=1E-6)
*************************************************************************
.ENDS
